US04914207
A. 1-Triphenylmethyl-4-methyl-5-hydroxymethylimidazole
To a solution of 19 g of 4-hydroxymethyl-5-methylimidazole hydrochloride in 350 ml of dimethylformamide was added 36 ml of triethylamine followed in 10 minutes by the addition of 35 g of trityl chloride. A water bath was used to cool the reaction mixture such that it did not rise above 36° C. After stirring at room temperature for 4 hours, the mixture was poured into 1 liter of water and ice. The resulting precipitate was filtered and washed with acetone (2×250 ml) to give 22 g of product.

reactant | 4-hydroxymethyl-5-methylimidazole hydrochloride | 19 g | Cl.OCC=1N=CNC1C
reactant | triethylamine | 36 ml | C(C)N(CC)CC | C6H15N
reactant | trityl chloride | 35 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | water | 1 liter | O | H2O
solvent | dimethylformamide | 350 ml | CN(C=O)C | C3H7NO
product | 1-Triphenylmethyl-4-methyl-5-hydroxymethylimidazole | 22 g | C1(=CC=CC=C1)C(N1C=NC(=C1CO)C)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H22N2O
